US09301990B2
Step 3: (S)-2-((S)-2-Amino-3-phenyl-propionylamino)-hexanoic acid (4-hydroxymethyl-phenyl)-amide
In a round-bottomed flask, the above prepared {(S)-1-[(S)-1-(4-hydroxymethyl-phenylcarbamoyl)-pentylcarbamoyl]-2-phenyl-ethyl}-carbamic acid 9H-fluoren-9-ylmethyl ester (4.738 g, 7.822 mmol, Eq: 1.0) was dissolved in CH2Cl2 (28 ml). At 0°, diethylamine (28 ml, 19.80 g, 271 mmol, Eq: 35) was added and the reaction mixture stirred at ambient temperature overnight. All volatiles were evaporated i. V.; ensuing flash chromatography SiO2/CH2Cl2/10% MeOH, followed by crystallization from AcOEt, yielded 2.116 g of the title compound as light brown crystals. MS (ISP): (M+H) 384.2.

reactant | {(S)-1-[(S)-1-(4-hydroxymethyl-phenylcarbamoyl)-pentylcarbamoyl]-2-phenyl-ethyl}-carbamic acid 9H-fluoren-9-ylmethyl ester | 7.822 mmol, 4.738 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(N[C@@H](CC1=CC=CC=C1)C(N[C@@H](CCCC)C(NC1=CC=C(C=C1)CO)=O)=O)=O | C37H39N3O5
reactant | diethylamine | 271 mmol, 28 ml, 19.80 g | C(C)NCC | C4H11N
solvent | CH2Cl2 | 28 ml | C(Cl)Cl | CH2Cl2
product | (S)-2-((S)-2-Amino-3-phenyl-propionylamino)-hexanoic acid (4-hydroxymethyl-phenyl)-amide | 2.116 g | OCC1=CC=C(C=C1)NC([C@H](CCCC)NC([C@H](CC1=CC=CC=C1)N)=O)=O | C22H29N3O3
